US09101133B2
2-(2,6-diethyl-4-methylphenyl)-5-(3-oxobutyl)-tetrahydropentalene-1,3-dione
1.87 g (4.65 mmol) of 6-(benzyloxy)-5-(2,6-diethyl-4-methylphenyl)-4-oxo-1,2,3,3a,4,6a-hexahydropentalene-2-carbaldehyde (compound I-a-2) and 1.63 g (5.11 mmol) of acetonylidenetriphenylphosphorane in 40 ml of trichloromethane are stirred at room temperature for 12 h. The solvent is then removed, and the residue is purified chromatographically on silica gel (mobile phase ethyl acetate/hexane 1:5). This gives 1.37 g (66%) of 3-benzyloxy-2-(2,6-diethyl-4-methylphenyl)-5-(3-oxobut-1-enyl)-4,5,6,6a-tetrahydro-3aH-pentalen-1-one as a colourless oil.

reactant | 6-(benzyloxy)-5-(2,6-diethyl-4-methylphenyl)-4-oxo-1,2,3,3a,4,6a-hexahydropentalene-2-carbaldehyde | 4.65 mmol, 1.87 g | C(C1=CC=CC=C1)OC1=C(C(C2CC(CC12)C=O)=O)C1=C(C=C(C=C1CC)C)CC | C27H30O3
reactant | acetonylidenetriphenylphosphorane | 5.11 mmol, 1.63 g | C(C(=O)C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | trichloromethane | 40 ml | ClC(Cl)Cl | CHCl3
product | 2-(2,6-diethyl-4-methylphenyl)-5-(3-oxobutyl)-tetrahydropentalene-1,3-dione | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)CCC(C)=O)=O | C23H30O3
